US09290511B2
5-Phenyl-2-(trifluoromethyl)thieno[2,3-d]pyrimidin-4-one (0.20 g, 0.67 mmol) was stirred in dichloromethane (5 mL) at 0° C. Pyridine (0.11 mL, 1.3 mmol) was added, followed by trifluoromethanesulfonic anhydride (0.14 mL, 0.81 mmol) and stirring continued for 30 mins and the mixture allowed to warm to room temperature. 4-(2-Pyrrolidin-1-ylethoxymethyl)piperidine (0.29 g, 1.3 mmol) was added and the reaction stirred for 1 hour at room temperature. The reaction mixture was diluted with DCM (20 mL), washed with water (20 mL), dried over Na2SO4 and concentrated at reduced pressure. The resulting residue was purified by flash chromatography, eluting with a gradient of petroleum ether to 50/50 petroleum ether/ethyl acetate to afford 5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]-2-(trifluoromethyl)thieno[2,3-d]pyrimidine (0.16 g). LCMS: purity 98%, RT=4.28 min, M+1=491.2

reactant | 5-Phenyl-2-(trifluoromethyl)thieno[2,3-d]pyrimidin-4-one | 0.67 mmol, 0.20 g | C1(=CC=CC=C1)C1=CSC=2N=C(NC(C21)=O)C(F)(F)F | C13H7F3N2OS
reactant | Pyridine | 1.3 mmol, 0.11 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoromethanesulfonic anhydride | 0.81 mmol, 0.14 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | 4-(2-Pyrrolidin-1-ylethoxymethyl)piperidine | 1.3 mmol, 0.29 g | N1(CCCC1)CCOCC1CCNCC1 | C12H24N2O
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
product | 5-phenyl-4-[4-(2-pyrrolidin-1-ylethoxymethyl)-1-piperidyl]-2-(trifluoromethyl)thieno[2,3-d]pyrimidine | 0.16 g | C1(=CC=CC=C1)C1=CSC=2N=C(N=C(C21)N2CCC(CC2)COCCN2CCCC2)C(F)(F)F | C25H29F3N4OS
